US05783593
A solution of 4-phenoxybenzaldehyde (5.0 g, 25 mmol) in dry tetrahydrofuran (10 mL) at 0° C. was treated with borane (1M in tetrahydrofuran, 11.25 mL). After 45 minutes, the reaction was quenched with saturated NH4Cl, diluted with ethyl acetate, and washed with 1M HCl, 5% NaHCO3, and brine, and dried over Na2SO4, and concentrated under reduced pressure to give 4.7 g (92%) of 4-phenoxybenzyl alcohol.

reactant | 4-phenoxybenzaldehyde | 25 mmol, 5.0 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | borane | 1M, 11.25 mL | B | BH3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-phenoxybenzyl alcohol | 4.7 g, 92% | O(C1=CC=CC=C1)C1=CC=C(CO)C=C1 | C13H12O2
